.SUBCKT gf180mcu_fd_sc_mcu9t5v0__oai33_2 A1 A2 A3 B1 B2 B3 ZN VDD VDD VSS VSS
*.PININFO A1:I A2:I A3:I B1:I B2:I B3:I ZN:O VDD:P VDD:P VSS:P VSS:G
*.EQN ZN=!(((A1 + A2) + A3) * ((B1 + B2) + B3))
M_i_5_0 VSS B3 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_4_1 net_0 B2 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_3_1 VSS B1 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_3_0 net_0 B1 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_4_0 VSS B2 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_5_1 net_0 B3 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_0 ZN A3 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1_1 net_0 A2 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_1 ZN A1 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_0 net_0 A1 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1_0 ZN A2 net_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_1 net_0 A3 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_11_0 net_4_0 B3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_10_1 net_3_0 B2 net_4_0 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_9_1 ZN B1 net_3_0 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_9_0 net_3_1 B1 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_10_0 net_4_1 B2 net_3_1 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_11_1 VDD B3 net_4_1 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_8_0 net_2_0 A3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_1 net_1_0 A2 net_2_0 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6_1 ZN A1 net_1_0 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6_0 net_1_1 A1 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_0 net_2_1 A2 net_1_1 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_8_1 VDD A3 net_2_1 VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
